US08975282B2
Step 1) N-(5-hydroxypyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of 6-aminopyridin-3-ol (330 mg, 3 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (710 mg, 306 mmol) in DMF (10 mL) was added EDCI (690 mg, 3.6 mmol) and HOAT (80 mg, 0.6 mmol). The reaction was stirred at 60° C. for 4 hours, then cooled to rt and diluted with water (100 mL) and EtOAc (2 mL). The mixture was cooled to 0° C. and stirred overnight. The resulted solid was collected through filtration to give title compound as a light brown solid (680 mg, 70%).

reactant | 6-aminopyridin-3-ol | 3 mmol, 330 mg | NC1=CC=C(C=N1)O | C5H6N2O
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 306 mmol, 710 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 3.6 mmol, 690 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.6 mmol, 80 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | N-(5-hydroxypyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 680 mg, 70% | OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C17H16N4O3
